US06307047B1
2-(4-Fluorophenyl-4-(4-fluorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to Example 93, starting with 4-(4-fluorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 1-fluoro-4-iodobenzene in place of 4-bromothioanisole (yield: 60 mg, 53%). mp 83-85° C. 1H NMR (300 MHz, CDCl3) δ 3.10 (s, 3H), 6.89-7.03 (m, 4H), 7.15 (t, J=9 Hz, 2H), 7.65 (dd, J=9 Hz, 6 Hz, 2H), 7.83 (d, J=6 Hz, 2H), 8.07 (d, J=9 Hz, 2H), 8.08 (s, 1H). MS (DCI/NH3) m/z 455 (M+H)+, 472 (M+NH4)+.

reactant | 4-(4-fluorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(OC=2C(NN=CC2C2=CC=C(C=C2)S(=O)(=O)C)=O)C=C1 | C17H13FN2O4S
reactant | 1-fluoro-4-iodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | NH3 | N | H3N
product | 4-Fluorophenyl-4-(4-fluorophenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C23H16F2N2O4S
